US08084395B2
To a solution of 274 mg (1 mmole) of 3-Bromo-2-pyridin-4-yl-1H-pyrrolo[3,2-b]pyridine in 1.8 mL of toluene under nitrogen is added a 0.6 mL of a 2N solution of sodium carbonate, 170 mg (1.25 mmole) of m-tolylboronic acid and 1.2 mL of ethanol. To the reaction mixture is finally added 45 mg of tetrakistriphenylphosphine palladium. The reaction mixture is sealed in a microwave vessel and stirred under microwave conditions at 180° C. for 2 min. The cooled reaction mixture is then poured into ammonium chloride solution and extracted with ethyl acetate. The organic phase is washed with water and dried over magnesium sulfate. The solid residue after concentration is recrystallized into hexane to afford 150 mg of 2-Pyridin-4-yl-3-m-tolyl-1H-pyrrolo[3,2-b]pyridine as white crystals.

reactant | 3-Bromo-2-pyridin-4-yl-1H-pyrrolo[3,2-b]pyridine | 1 mmole, 274 mg | BrC1=C(NC=2C1=NC=CC2)C2=CC=NC=C2 | C12H8BrN3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | m-tolylboronic acid | 1.25 mmole, 170 mg | C1(=CC(=CC=C1)B(O)O)C | C7H9BO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 1.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.2 mL | C(C)O | C2H6O
product | 2-Pyridin-4-yl-3-m-tolyl-1H-pyrrolo[3,2-b]pyridine | 150 mg | N1=CC=C(C=C1)C1=C(C2=NC=CC=C2N1)C=1C=C(C=CC1)C | C19H15N3
